US09399636B2
Preparation of (1-methyl-1H-imidazol-4-yl)(3-(2-(2-methylpyrrolidin-1-yl)-6-((4-(trifluoromethyl)pyridin-2-yl)amino)pyridin-4-yl)pyrrolidin-1-yl)methanone
To a mixture of 1-methylimidazole-4-carboxylic acid (39.79 mg, 0.315 mmol, 1.5 equiv.), HOBT (57.42 mg, 0.420 mmol, 2.0 equiv.), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (81.46 mg; 0.420 mmol, 2.0 equiv.) in chloroform (3.0 mL) was added 6-[(2R)-2-methylpyrrolidin-1-yl]-4-pyrrolidin-3-yl-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine hydrochloride (90 mg, 0.210 mmol) followed by DIPEA (0.148 mL, 0.841 mmol, 4.0 equiv.). The resulting mixture was stirred at rt for 2 h. It was diluted with DCM (10 mL), washed with 10% citric acid and 1 N NaHCO3, dried over Na2SO4, filtered, concentrated in vacuo, and purified by HPLC to afford 16.1 mg (15.3%) of product as yellow solid. 1H NMR (400 MHz, DMSO) δ 9.74 (s, 1H), 8.80 (s, 1H), 8.41 (d, J=5.1 Hz, 1H), 7.68-7.60 (m, 2H), 7.10 (d, J=5.1 Hz, 1H), 6.39 (s, 1H), 5.90 (s, 1H), 4.48-4.09 (m, 3H), 3.94-3.73 (m, 2H), 3.69 (d, J=5.2 Hz, 3H), 3.56-3.43 (m, 2H), 3.25-3.18 (m, 1H), 2.31-2.13 (m, 1H), 2.12-1.86 (m, 4H), 1.73-1.63 (m, 1H), 1.17 (d, J=6.0 Hz, 3H). LC-MS: m/z=500 (M+H+).

reactant | 1-methylimidazole-4-carboxylic acid | 0.315 mmol, 39.79 mg, 1.5 equiv. | CN1C=NC(=C1)C(=O)O | C5H6N2O2
reactant | HOBT | 0.420 mmol, 57.42 mg, 2.0 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.420 mmol, 81.46 mg, 2.0 equiv. | Cl.CN(CCCN=C=NCC)C
reactant | 6-[(2R)-2-methylpyrrolidin-1-yl]-4-pyrrolidin-3-yl-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine hydrochloride | 0.210 mmol, 90 mg | Cl.C[C@H]1N(CCC1)C1=CC(=CC(=N1)NC1=NC=CC(=C1)C(F)(F)F)C1CNCC1
reactant | DIPEA | 0.841 mmol, 0.148 mL, 4.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | chloroform | 3.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (1-methyl-1H-imidazol-4-yl)(3-(2-(2-methylpyrrolidin-1-yl)-6-((4-(trifluoromethyl)pyridin-2-yl)amino)pyridin-4-yl)pyrrolidin-1-yl)methanone | 16.1 mg, 15.3% | CN1C=NC(=C1)C(=O)N1CC(CC1)C1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)N1C(CCC1)C | C25H28F3N7O
